US06946467B2
N-Methoxy-N-methylamine hydrochloride (4.3 g, 44.1 mmol) was dissolved in methylene chloride (25 mL). The solution was cooled to −78° C., and a solution of trimethylaluminum (44.1 mL, 44.1 mmol, 1 M in heptane) was slowly added. The mixture was stirred at 0° C. for 30 min and was allowed to warm to room temperature and stirred for 30 min. The mixture was then cooled to 0° C., and a solution of ethyl 4-Boc-piperazin-1-ylacetate (10 g, 36.8 mmol) was added dropwise. After 15 min, the cold bath was removed and stirring continued overnight. The mixture was diluted with ethyl acetate and water. The layers were separated, and the water layer extracted with ethyl acetate. The organic layers were combined, washed with brine, dried (Na2SO4), filtered, and concentrated to provide N-methoxy-N-methyl-4-Boc-piperazin-1-ylacetamide as a light yellow oil (6.02 g, 57%) that solidified upon standing. The product was used without further purification.

reactant | N-Methoxy-N-methylamine hydrochloride | 44.1 mmol, 4.3 g | Cl.CONC
reactant | trimethylaluminum | 44.1 mmol, 1 M, 44.1 mL | C[Al](C)C
reactant | ethyl 4-Boc-piperazin-1-ylacetate | 36.8 mmol, 10 g | C(=O)(OC(C)(C)C)N1CCN(CC1)CC(=O)OCC | C13H24N2O4
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methyl-4-Boc-piperazin-1-ylacetamide | 6.02 g, 57% | CON(C(CN1CCN(CC1)C(=O)OC(C)(C)C)=O)C | C13H25N3O4
